US06114532
c. 4-(cyclohexylcarbonyl)-2-nitro-N-methyl-aniline
Prepared analogously to Example 7b from 4-(cyclohexylcarbonyl)-2-nitro-chlorobenzene and methylamine solution.

reactant | 4-(cyclohexylcarbonyl)-2-nitro-chlorobenzene | C1(CCCCC1)C(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C13H14ClNO3
reactant | methylamine | CN | CH5N
product | 4-(cyclohexylcarbonyl)-2-nitro-N-methyl-aniline | C1(CCCCC1)C(=O)C1=CC(=C(NC)C=C1)[N+](=O)[O-] | C14H18N2O3
